US06613790B2
Preparation of methyl N-(2-methoxy-2-oxoethyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate
A mixture of Celecoxib (0.500 g, 1.31 mmol), methyl bromoacetate (0.501 g, 3.28 mmol) and K2CO3 (0.362 g, 2.62 mmol) in anhydrous DMF (5.0 mL) was stirred at room temperature for 21 hours. The mixture was then poured into sat. NaHCO3 (200 mL) and extracted with ethyl acetate (200 mL). The ethyl acetate solution was then washed with sat NaCl (50 mL), dried over MgSO4, filtered and concentrated under vacuum. The crude product was purified by flash chromatography (silica gel, 98:2 methylene chloride:methanol) to afford 0.350 g (51% yield) of the product as a colorless glass: 1H NMR (dmso-d6/300 MHz) δ 7.90 (d, 2H, J=8.7 Hz), 7.53 (d, 2H, J=8.7 Hz), 7.23-7.17 (m, 5H), 4.19 (s, 4H), 3.54 (s, 6H), 2.30 (s, 3H); HRMS (M+NH4)+ calcd. for C23H26F3N4O6S: 543.1525; found: 543.1526.

reactant | Celecoxib | 1.31 mmol, 0.500 g | CC=1C=CC(=CC1)C2=CC(=NN2C=3C=CC(=CC3)S(=O)(=O)N)C(F)(F)F | C17H14F3N3O2S
reactant | methyl bromoacetate | 3.28 mmol, 0.501 g | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 2.62 mmol, 0.362 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
reactant | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | methyl N-(2-methoxy-2-oxoethyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate | 0.350 g, 51% yield | COC(CN(CC(=O)OC)S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F)=O | C23H22F3N3O6S
